2153-04-12 05:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Respiratory distress
   24 Hour Events:
   -BNP 62,000, cyclosporine 350, DB 2.4 on TB 4.7, urine Lg negative
   -renal recs: patient will autodiurese, can use Lasix prn
   -ID recs: check B-glucan/galactomannan, otherwise nothing new
   -onc: ?decrease steroids, ?urology c/s for bladder spasm
   -BAL micro data: negative to date
   -PM 'lytes: improving renal function
   -Lopressor 5mg x 1 for increased BP in setting of BM strain (on NTG
   gtt, usual lopressor po held)
   -got additional 80 mg IV lasix in PM d/t even fluid balance (goal was
   500-1L negative) and additional 80 mg IV lasix in AM
   -ordered for 1U platelets for plt count of 23
   -respiratory status much improved: on face tent FiO2 50%, clearing own
   secretions
   -off nitro drip --> on standing IV Lopressor
   -noted to be in AF in morning with VR 100s
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2153-4-11**] 08:14 AM
   Voriconazole - [**2153-4-11**] 11:00 AM
   Azithromycin - [**2153-4-11**] 04:15 PM
   Meropenem - [**2153-4-11**] 08:30 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-4-11**] 06:10 PM
   Furosemide (Lasix) - [**2153-4-11**] 07:45 PM
   Pantoprazole (Protonix) - [**2153-4-11**] 08:31 PM
   Metoprolol - [**2153-4-12**] 05:04 AM
   Morphine Sulfate - [**2153-4-12**] 05:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-12**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.1
C (97
   HR: 110 (73 - 128) bpm
   BP: 139/96(106) {109/73(81) - 157/115(137)} mmHg
   RR: 20 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  2,707 mL
                                                                    511 mL
   PO:
   TF:
   IVF:
                                                                  1,055 mL
                                                                    108 mL
   Blood products:
   Total out:
                                                                  3,285 mL
                                                                    960 mL
   Urine:
                                                                  3,185 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -578 mL
                                                                   -449 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,479 (993 - 1,479) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.36/40/237/24/-2
   Ve: 23.8 L/min
   PaO2 / FiO2: 237
   Physical Examination
   Gen: Tachypneic, awake
   Neck: supple
   Pulm: Loud coarse rhonchi diffusely in anterior fields
   CV: tachycardic, irregular
   Abd: soft, non-tender
   Ext: non-edematous
   Skin: healing LE superficial ulcers with some groin excoriation.
   Neuro: left pupil fixed and dilated; moving all extremities, oriented
   x3
   Labs / Radiology
   23 K/uL
   10.0 g/dL
   206 mg/dL
   1.8 mg/dL
   24 mEq/L
   4.2 mEq/L
   112 mg/dL
   111 mEq/L
   147 mEq/L
   31.0 %
   9.8 K/uL
        [image002.jpg]
                             [**2153-4-11**]  05:53 AM
                             [**2153-4-11**]  07:08 AM
                             [**2153-4-11**]  02:44 PM
                             [**2153-4-12**]  03:01 AM
   WBC
   14.4
   9.8
   Hct
   36.4
   31.0
   Plt
   46
   23
   Cr
   1.9
   1.8
   1.8
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 5681**]
   Other labs: PT / PTT / INR:13.8/32.0/1.2, ALT / AST:18/20, Alk Phos / T
   Bili:132/3.5, Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.7 %,
   Mono:5.5 %, Eos:0.1 %, Albumin:3.3 g/dL, LDH:476 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   66 yo man with multiple myeloma s/p allogenic SCT [**2153-2-9**] with multiple
   subsequent complications including ARF, GIB, VOD, febrile neutropenia,
   CMV viremia now transferred back to the MICU in respiratory distress.
   #) Respiratory Distress
 he had worsening respiratory status over the
   past few days with evolving pulmonary infiltrates/ground glass
   opacities on imaging.  He is immunicompromised. He acutely
   decompensated after bronch, and was noted to be hypertensive after
   bronch, which may have precipitated pulm edema and resp distress.  Also
   on ddx as per initial pulm team are non-bacterial pneumonias such as
   fungal infection, PCP, [**Name10 (NameIs) 5655**] PNA. He has responded well in the last 24
   hours to diuresis, and is now satting well on face tent.
   -continue aggressive diuresis with Lasix, aiming for >500cc negative;
   patient has responded well to 80 mg IV boluses
   -check PM electrolytes
   -low dose morphine prn
   -aggressive pulmonary toilet
   -continue broad spectrum antibiotics with vancomycin/meropenem for
   previously diagnosed HAP
   -continue azithromycin
   -will need prophylaxis for PCP
   [**Name Initial (PRE) **]/u bronch fluid cultures and blood cultures
   -continue voriconazole
   #) Bladder Pain -- ?bladder irritation from foley catheter
   -consider urology consult
   #) Left eye dilation:
   -stat head CT negative for intracranial process
   -neuro consult
   -ophtho consult
   #) Hypertension / PAF/ tachycardia
   -continue metoprolol 5mg IV q6h with 5 mg boluses
   -could switch to po regimen when tolerating
   #) GVHD/immunsuppression, had elevated bilirubin, thought to be due to
   GVHD. [**4-5**] RUQ u/s fairly unremarkable, no cholelithiasis or evidence
   of cholecystitis.
   -methylprednisolone decreased [**4-11**]; continue at current dose
   -cyclosporine, monitor levels frequently in setting of rapidly changing
   renal function.
   #) Altered mental status
   -per BMT team, consider MRI brain
   #) CMV viremia, CMV VL 1280 from [**4-3**], VL pending from [**4-9**]
   -continue ganciclovir
   -f/u [**4-9**] [**Month/Year (2) 5655**] load
   -f/u ID recs
   #) Multiple Myeloma
   -transfuse PRBCs for Hct <28 and platelets <50K
   -getting 1U platelets this morning
   #) ARF
 creatinine has been steadily improving, last 1.9, peaked at
   6.2.  Monitor closely after high dose lasix  overnight
   -f/u renal recs
   -will need close monitoring and adjustment of renally dosed medications
   in setting of changing renal function
   #) Hypocalcemia
   -repeat PTH from [**4-8**] elevated at 532
   -continue calcitriol
   #) Hypernatremia
   -replete free water deficit
   #) h/o GIB
   -monitor hct
   -transfuse per parameters above
   -continue IV BID PPI
   #) FEN
 dysphagia, low bacteria diet with supplements, replete lytes
   prn.  No IVF for now as diuresing.
   #) PPx
 PPI, will need to continue bactrim ppx if decision not to
   start treatment today
   #) Code
 Full
   #) Access R SC CVL
   ICU Care
   Nutrition: low bacteria diet with supplements
   TPN w/ Lipids - [**2153-4-11**] 08:43 PM 75 mL/hour
   Glycemic Control:  will tighten sliding scale insulin today
   Lines: R subclavian CVL
   Multi Lumen - [**2153-4-11**] 02:21 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition: pending improvement in respiratory status

2153-04-12 11:10:00 Physician Attending Progress Note
Chief Complaint: Hypoxemic Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2153-4-12**] 04:21 AM
   -Patient wtih improved resp status with diuresis and likely small
   improvement in oxygenation
   -Patient with evolution of unilateral fixed and dilated pupil with stat
   head CT and Neuro and Optho consults called urgently.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Voriconazole - [**2153-4-11**] 11:00 AM
   Azithromycin - [**2153-4-11**] 04:15 PM
   Meropenem - [**2153-4-11**] 08:30 PM
   Vancomycin - [**2153-4-12**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2153-4-11**] 06:10 PM
   Pantoprazole (Protonix) - [**2153-4-11**] 08:31 PM
   Morphine Sulfate - [**2153-4-12**] 05:35 AM
   Metoprolol - [**2153-4-12**] 05:50 AM
   Furosemide (Lasix) - [**2153-4-12**] 05:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2153-4-12**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.5
   HR: 81 (73 - 128) bpm
   BP: 129/85(97) {109/73(81) - 151/115(123)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 332 (12 - 332)mmHg
   Total In:
                                                                  2,707 mL
                                                                  1,411 mL
   PO:
   TF:
   IVF:
                                                                  1,055 mL
                                                                    362 mL
   Blood products:
                                                                    296 mL
   Total out:
                                                                  3,285 mL
                                                                  2,280 mL
   Urine:
                                                                  3,185 mL
                                                                  2,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -578 mL
                                                                   -869 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,479 (1,479 - 1,479) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 23.8 L/min
   Physical Examination
   Eyes / Conjunctiva: Dilated L-Pupil
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Patient responds to voice, squeezing fingers, moving all
   extremities, responsive to voice
   Labs / Radiology
   10.0 g/dL
   72 K/uL
   206 mg/dL
   1.8 mg/dL
   24 mEq/L
   4.2 mEq/L
   112 mg/dL
   111 mEq/L
   147 mEq/L
   31.0 %
   9.8 K/uL
        [image002.jpg]
                             [**2153-4-11**]  05:53 AM
                             [**2153-4-11**]  07:08 AM
                             [**2153-4-11**]  02:44 PM
                             [**2153-4-12**]  03:01 AM
                             [**2153-4-12**]  09:21 AM
   WBC
   14.4
   9.8
   Hct
   36.4
   31.0
   Plt
   46
   23
   72
   Cr
   1.9
   1.8
   1.8
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 5681**]
   Other labs: PT / PTT / INR:13.8/32.0/1.2, ALT / AST:18/20, Alk Phos / T
   Bili:132/3.5, Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.7 %,
   Mono:5.5 %, Eos:0.1 %, Albumin:3.3 g/dL, LDH:476 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.6 mg/dL
   Imaging: CXR--Suggestion of increased pulmonary edema noted in upper
   lung fields-lower lobes appear to have some clearing
   Assessment and Plan
   66 yo male s/p BMT now admitted with diffuse pulmonary infiltrates and
   hypoxemic respiratory compromise requiring NIV support over past 24
   hours.  Importantly he has had evolution of unilateral pupilary
   dilation with fixed pupil noted.
   1)Hypoxemic Respiratory Failure-
   -Azithro/Meropenem/Vanco/Viriconazole for possible infectious source
   although this clearly appears to be a combination of hydrostatic and
   non-hydrostatic pulmonary edema.
   -Will continue to work to balance desire for maintenance of negative
   fluild balance but the issue is and has been
balance of preservation of
   renal function and minimization of hypernatremia while working to
   minimized lung water.
   -Intermittent BIPAP is reasonable
   2)CMV Viremia-TACHYCARDIA, OTHER
   GCV
   3)GVHD-
   Cyclosporine/Methylpred 15mg [**Hospital1 **]
   Ursadiol
   4)Unilteral Mydriasis-
   -Neuro consult in place
   -Optho called
   -CT negative
   -Exam to be followed q 4 hours
   5)Urinary Discomfort-
   -Urology Consult to be performed
   -Will maintain foley
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-11**] 02:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Plan and current active issues discussed with
   wife during [**Name2 (NI) 1812**] today for additional 15 minutes beyond exam of the
   patient.
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes

2153-04-13 09:24:00 Physician Attending Progress Note
Chief Complaint: hypoxia after bronch
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   66M with MM s/p allo SCTx ~60 days ago, here with hypoxia, infection vs
   pulm edema:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2153-4-12**] 10:00 PM
   L eye mydriasis -- likely drug effect, resolved later in the day; seen
   by neuro and [**Year (4 digits) 5706**]
   Cont diuresis
   MRI compl by motion artefact
   Bladder spasm -- seen by urology; trial of valium and oxybutinin.
   Atovaquone started.
   History obtained from Patient
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2153-4-12**] 04:00 PM
   Meropenem - [**2153-4-12**] 08:00 PM
   Gancyclovir - [**2153-4-12**] 09:00 PM
   Voriconazole - [**2153-4-13**] 12:30 AM
   Vancomycin - [**2153-4-13**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-12**] 08:00 PM
   Furosemide (Lasix) - [**2153-4-13**] 03:00 AM
   Other medications:
   calcitriol, ursodiol, actigall, lido patch, nystatin, folate, csa,
   methypred, atovaquone (new since yest), oxybut (new)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-13**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.5
C (95.9
   HR: 82 (79 - 99) bpm
   BP: 129/86(97) {108/73(82) - 144/107(115)} mmHg
   RR: 21 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (8 - 20)mmHg
   Total In:
                                                                  5,015 mL
                                                                  2,362 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                  2,808 mL
                                                                  1,583 mL
   Blood products:
                                                                    296 mL
                                                                    199 mL
   Total out:
                                                                  3,515 mL
                                                                  1,235 mL
   Urine:
                                                                  3,515 mL
                                                                  1,235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,500 mL
                                                                  1,127 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 1,071 (1,071 - 1,071) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) No acute distress
   Eyes / Conjunctiva: No(t) PERRL, L eye dilated again this am
   Cardiovascular: irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: [**Last Name (un) 1218**])
   Abdominal: scrotal edema
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   61 K/uL
   208
   1.8 mg/dL
   23 mEq/L
   5.0 mEq/L
   117 mg/dL
   108 mEq/L
   144 mEq/L
   31.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2153-4-11**]  05:53 AM
                             [**2153-4-11**]  07:08 AM
                             [**2153-4-11**]  02:44 PM
                             [**2153-4-12**]  03:01 AM
                             [**2153-4-12**]  09:21 AM
                             [**2153-4-12**]  02:49 PM
                             [**2153-4-13**]  03:56 AM
                             [**2153-4-13**]  05:00 AM
                             [**2153-4-13**]  07:15 AM
   WBC
   14.4
   9.8
   13.0
   Hct
   36.4
   31.0
   31.9
   Plt
   46
   23
   72
   40
   61
   Cr
   1.9
   1.8
   1.8
   1.9
   1.8
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 5707**]57
   164
   208
   Other labs: PT / PTT / INR:13.4/32.9/1.1, ALT / AST:19/24, Alk Phos / T
   Bili:146/4.0, Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.7 %,
   Mono:5.5 %, Eos:0.1 %, Albumin:3.3 g/dL, LDH:483 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, CHRONIC
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   66M with hypoxia and GGOs througout, now somewhat improved with
   diuresis but remains ill:
   HYPOXIA: infection vs pulm edema
   -cont fu cultures
   -cont broad antibacterials and antifungals per id/onc
   -cont lasix prn for goal net even; will be more vigilant
   -concentrate abx
   -reassess oxygen requireimen
   BLADDER SPASM: suspect foley malfunction as part of etiology
   -ask urol re use of changing foley
   -cont oxybut
   MYDRIASIS: improving
   -fu mri and reassess need for repeat study
   -little concern for neuro or primary [**Last Name 5706**] problem
   -neuro and [**Name2 (NI) 5706**] following
   HTN/TACHY: afib
   -cont metopr
   GVHD:
   -cont immunosup
   DISPO:
   -will discuss with bmt possible txr to floor today
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2153-4-12**] 06:52 PM 65 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2153-4-11**] 02:21 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments: wife bedside
   [**Name2 (NI) 129**] status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I was physically present with the resident team and fellow for
   discussion of the above history, exam and assesment in plan with which
   I agree.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2153-4-13**] 17:35 ------

2153-04-13 12:33:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   - Blown out left pupil. Neuro exam otherwise ok per Neuro c/s. Thought
   to be ipratropium effect per Ophtho. Ordered preservative-free
   artificial tears, lacrilube. Also ordered for MRI/MRA head & orbits but
   unable to interpret on prelim read due to motion artifact. Anisocoria
   noted to improve during the night.
   - Given lasix 80mg IV -> neg 800 at 1600. Free water repletion ordered
   per Renal recs. Increased rales & net pos 800cc at MN -> Lasix 80mg IV
   - Urology consulted re: bladder spasms -> oxybutynin 5mg q6h trial. Not
   responsive so also written for trial of valium 2mg. Bladder scanned for
   600cc in bladder despite Foley flushing well. Subsequently noted to
   have backflow/leak from Foley with question of obstruction.
   - Given new anticholingerics and diuretics, held IV metoprolol q6h
   - Cyclosporine decreased and atovaquone started for PCP [**Name9 (PRE) 1694**] per Onc &
   ID recs
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2153-4-12**] 04:00 PM
   Gancyclovir - [**2153-4-12**] 09:00 PM
   Voriconazole - [**2153-4-13**] 12:30 AM
   Vancomycin - [**2153-4-13**] 08:00 AM
   Meropenem - [**2153-4-13**] 08:28 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2153-4-13**] 03:00 AM
   Pantoprazole (Protonix) - [**2153-4-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-13**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.5
C (95.9
   HR: 89 (79 - 99) bpm
   BP: 140/92(104) {108/73(82) - 144/107(113)} mmHg
   RR: 26 (17 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 18 (8 - 21)mmHg
   Total In:
                                                                  5,016 mL
                                                                  2,841 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                  2,808 mL
                                                                  1,847 mL
   Blood products:
                                                                    296 mL
                                                                    199 mL
   Total out:
                                                                  3,515 mL
                                                                  1,475 mL
   Urine:
                                                                  3,515 mL
                                                                  1,475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,501 mL
                                                                  1,366 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 1,071 (1,071 - 1,071) mL
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: Tachypneic, awake
   Neck: supple
   Pulm: Loud coarse rhonchi diffusely in anterior fields
   CV: tachycardic, irregular
   Abd: soft, non-tender
   Ext: pitting edema extending up legs and to groin
   Skin: healing LE superficial ulcers
   Neuro: left pupil fixed and dilated again this AM while getting neb;
   moving all extremities, oriented x3
   Labs / Radiology
   61 K/uL
   10.2 g/dL
   208
   1.8 mg/dL
   23 mEq/L
   5.0 mEq/L
   117 mg/dL
   108 mEq/L
   144 mEq/L
   31.9 %
   13.0 K/uL
        [image002.jpg]
                             [**2153-4-11**]  05:53 AM
                             [**2153-4-11**]  07:08 AM
                             [**2153-4-11**]  02:44 PM
                             [**2153-4-12**]  03:01 AM
                             [**2153-4-12**]  09:21 AM
                             [**2153-4-12**]  02:49 PM
                             [**2153-4-13**]  03:56 AM
                             [**2153-4-13**]  05:00 AM
                             [**2153-4-13**]  07:15 AM
   WBC
   14.4
   9.8
   13.0
   Hct
   36.4
   31.0
   31.9
   Plt
   46
   23
   72
   40
   61
   Cr
   1.9
   1.8
   1.8
   1.9
   1.8
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 5707**]57
   164
   208
   Other labs: PT / PTT / INR:13.4/32.9/1.1, ALT / AST:19/24, Alk Phos / T
   Bili:146/4.0, Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.7 %,
   Mono:5.5 %, Eos:0.1 %, Albumin:3.3 g/dL, LDH:483 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   66 yo man with multiple myeloma s/p allogenic SCT [**2153-2-9**] with multiple
   subsequent complications including ARF, GIB, VOD, febrile neutropenia,
   CMV viremia now transferred back to the MICU in respiratory distress.
   #) Respiratory Distress: Evolving pulmonary infiltrates/ground glass
   opacities on imaging in immunocompromised pt. Acutely decompensated and
   hypertensive after bronch, which may have precipitated pulm edema and
   resp distress in setting of imparied renal function.  Also on ddx as
   per initial pulm team are non-bacterial pneumonias such as fungal
   infection, PCP, [**Name10 (NameIs) 5655**] PNA. He has responded well in the last 24 hours
   to diuresis, and is now satting well on face tent.
   -Continue aggressive diuresis with Lasix 80mg IV bid with additional
   doses prn for daily goal >500cc negative
   -[**Hospital1 **] electrolytes check
   -Aggressive pulmonary toilet
   -Continue broad spectrum antibiotics meropenem and voriconazole; ok to
   d/c azithromycin and vanco today per ID as no evidence of MRSA or
   atypicals on micro
   -Continue atovaquone for PCP [**Name9 (PRE) 1694**]
   [**Name9 (PRE) 4837**] ganciclovir; await ID recs regarding dosing
   -F/u bronch fluid cultures and blood cultures
   - Wean off O2 as tolerated
   # Urinary retention:  Unclear why retaining with Foley in place.
   - Will ask urology to evaluate, ?replace Foley
   #) Bladder spasms: Spasms chronic x 1 month per wife with no relief on
   oxybutynin, ?related to urinary retention.
   -Assess response to anticholinergics
   -F/u urology recs
   #) Left eye dilation: Likely [**1-15**] ipratropium neb although less likey
   etiologies include aneurysm or orbital process
   - F/u final MRI read and neuro/ophtho recs
   #) Hypertension / PAF/ tachycardia
   -Resume home metoprolol 25mg tid
   #) GVHD/immunsuppression, had elevated bilirubin, thought to be due to
   GVHD. [**4-5**] RUQ u/s fairly unremarkable, no cholelithiasis or evidence
   of cholecystitis.
   -Methylprednisolone decreased [**4-11**]; continue at current dose
   -Cyclosporine decreased [**4-12**], monitor levels frequently in setting of
   rapidly changing renal function.
   #) Altered mental status
   -F/u MRI head
   #) CMV viremia: CMV titer relatively stable from [**4-3**] to [**4-9**]
   -Continue ganciclovir for now pending ID recs
   #) Multiple Myeloma: Getting 1U platelets this morning
   -Transfuse PRBCs for Hct <28 and platelets <50K
   #) ARF: Creatinine stable at 1.9, peaked at 6.2.  Monitor closely with
   initiation of standing lasix
   -F/u renal recs
   -Will need close monitoring and adjustment of renally dosed medications
   in setting of changing renal function
   #) Hypocalcemia: Repeat PTH from [**4-8**] elevated at 532
   -Continue calcitriol
   #) Hypernatremia
   -Replete free water deficit
   #) H/o GIB
   -Monitor hct
   -Transfuse per parameters above
   -Continue IV BID PPI
   ICU Care
   Nutrition: Dysphagia, low bacteria diet with supplements, replete lytes
   prn.
   TPN w/ Lipids - [**2153-4-11**] 08:43 PM 75 mL/hour
   Glycemic Control:  will tighten sliding scale insulin today
   Lines: R subclavian CVL
   Multi Lumen - [**2153-4-11**] 02:21 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition: Possible call-out pending improvement in O2 requirement

2153-04-14 06:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: transfer from BMT service for respiratory distress
   24 Hour Events:
   - Patient with continuous bladder spasm. After one particularly painful
   spasm patient went into SVT possibly flutter.  Was restarted ealier on
   metoprolol 25 tid but missed pm dose [**1-15**] low BP after lasix.  For Rapid
   HR:
    -metoprolol 5mg IV x2 + pm dose (25 PO)
    -dilt 10mh IV x 2 + PO 30
    -Dilt drip
    -Uro recs: formal bladder scan, if > 450 then change foley to one with
   2 ports (three if you count baloon)
   -Was going to be call out, now cancelled
   -Held lasix (d/ced)
   -gave 1U plts
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2153-4-12**] 04:00 PM
   Gancyclovir - [**2153-4-12**] 09:00 PM
   Vancomycin - [**2153-4-13**] 08:00 AM
   Voriconazole - [**2153-4-13**] 12:21 PM
   Meropenem - [**2153-4-13**] 07:27 PM
   Infusions:
   Diltiazem - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-13**] 08:00 AM
   Furosemide (Lasix) - [**2153-4-13**] 04:00 PM
   Metoprolol - [**2153-4-13**] 07:55 PM
   Diltiazem - [**2153-4-13**] 09:10 PM
   Morphine Sulfate - [**2153-4-14**] 04:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-14**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 85 (82 - 140) bpm
   BP: 106/81(87) {96/65(73) - 153/105(115)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (8 - 25)mmHg
   Total In:
                                                                  4,408 mL
                                                                  1,146 mL
   PO:
                                                                    480 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  2,169 mL
                                                                    141 mL
   Blood products:
                                                                    199 mL
                                                                    489 mL
   Total out:
                                                                  3,360 mL
                                                                  1,050 mL
   Urine:
                                                                  3,360 mL
                                                                  1,050 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,048 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Gen:
   Neck
   Pulm:
   CV:
   Abd
   Ext:
   Skin:
   Neuro:
   Labs / Radiology
   103 K/uL
   10.4 g/dL
   143 mg/dL
   1.7 mg/dL
   25 mEq/L
   5.1 mEq/L
   120 mg/dL
   105 mEq/L
   139 mEq/L
   32.0 %
   10.8 K/uL
        [image002.jpg]
                             [**2153-4-11**]  02:44 PM
                             [**2153-4-12**]  03:01 AM
                             [**2153-4-12**]  09:21 AM
                             [**2153-4-12**]  02:49 PM
                             [**2153-4-13**]  03:56 AM
                             [**2153-4-13**]  05:00 AM
                             [**2153-4-13**]  07:15 AM
                             [**2153-4-13**]  02:13 PM
                             [**2153-4-14**]  03:07 AM
                             [**2153-4-14**]  05:29 AM
   WBC
   9.8
   13.0
   10.8
   Hct
   31.0
   31.9
   32.0
   Plt
   23
   72
   40
   61
   36
   103
   Cr
   1.8
   1.8
   1.9
   1.8
   1.7
   1.7
   Glucose
   194
   206
   157
   164
   208
   170
   143
   Other labs: PT / PTT / INR:13.4/32.9/1.1, ALT / AST:19/24, Alk Phos / T
   Bili:146/4.0, Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.7 %,
   Mono:5.5 %, Eos:0.1 %, Albumin:3.3 g/dL, LDH:483 IU/L, Ca++:8.9 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   66 yo man with multiple myeloma s/p allogenic SCT [**2153-2-9**] with multiple
   subsequent complications including ARF, GIB, VOD, febrile neutropenia,
   CMV viremia now transferred back to the MICU in respiratory distress.
   #) Respiratory Distress: Evolving pulmonary infiltrates/ground glass
   opacities on imaging in immunocompromised pt. Acutely decompensated and
   hypertensive after bronch, which may have precipitated pulm edema and
   resp distress in setting of imparied renal function.  Also on ddx as
   per initial pulm team are non-bacterial pneumonias such as fungal
   infection, PCP, [**Name10 (NameIs) 5655**] PNA. He has responded well in the last 24 hours
   to diuresis, and is now satting well on face tent.  Bronch washing
   negative to date.   O2 requirement decreased to 3-4L NC.
   -holding off on diuresis as patient with tenuous BP in setting of
   narrow complex tachycardia.
   -[**Hospital1 **] electrolytes check
   -Aggressive pulmonary toilet
   -Vanc and azithro were stopped on [**2153-4-13**]
   -Continue atovaquone for PCP [**Name9 (PRE) 1694**]
   [**Name9 (PRE) 4837**] ganciclovir at current dose.
   -F/u bronch fluid cultures and blood cultures
   - Wean off O2 as tolerated
   #) Narrow complex tachycardia: Seems to have started after a severe
   bladder spasm.  [**Month (only) 11**] also be related to patient missing PL dose of
   metorpolol.  DDX for this patient is mainly between flutter or AVNRT.
   [**Month (only) 11**] be form of fib/flutter but patient mostly having discernable p
   waves.  Overnight management with metoprolol and dilt per overnight
   events above.  Patient remains of the dilt drip with a HR of < 100.
   -cont dilt gtt and wean as tolerated.  Will start PO dilt today.
   -ECG in am.
   #) Urinary retention:  Patient seems to be retaining as he has urine on
   bedside BS.  [**Month (only) 11**] be that clots are getting stuck in foley.
   - Per uro: obtain formal BS. If > 450 urine then will place larger
   foley with ability for CBI.
   #) Bladder spasms: Spasms chronic x 1 month per wife with no relief on
   oxybutynin, ?related to urinary retention.  Patient still having severe
   spasms, may have had a slight positive response to oxybutinin.
   -F/u urology recs
   -continue oxybutinin, valium and morphone IV for spasms.
   #) Left eye dilation: Likely [**1-15**] ipratropium neb although less likey
   etiologies include aneurysm or orbital process
   - F/u final MRI read and neuro/ophtho recs
   #) Hypertension / PAF/ tachycardia: currently weaning off dilt gtt.
   Will start PO dilt this am.
   #) GVHD/immunsuppression, had elevated bilirubin, thought to be due to
   GVHD. [**4-5**] RUQ u/s fairly unremarkable, no cholelithiasis or evidence
   of cholecystitis.
   -Methylprednisolone decreased [**4-11**]; continue at current dose
   -Cyclosporine decreased [**4-12**], monitor levels frequently in setting of
   rapidly changing renal function..  Dose currently at 25/25.
   #) Altered mental status
   -F/u MRI head
   #) CMV viremia: CMV titer relatively stable from [**4-3**] to [**4-9**]
   -Continue ganciclovir for now pending ID recs
   #) Multiple Myeloma: 1U platelets this morning
   -Transfuse PRBCs for Hct <28 and platelets <50K
   #) ARF: Creatinine stable at 1.9, peaked at 6.2.  Monitor closely with
   initiation of standing lasix
   -F/u renal recs
   -Will need close monitoring and adjustment of renally dosed medications
   in setting of changing renal function
   #) Hypocalcemia: Repeat PTH from [**4-8**] elevated at 532
   -Continue calcitriol
   #) Hypernatremia
   -Replete free water deficit
   #) H/o GIB
   -Monitor hct
   -Transfuse per parameters above
   -Continue IV BID PPI
   ICU Care
   Nutrition: dysphagia, low bacteria diet with supplements, replete lytes
   prn
   TPN w/ Lipids - [**2153-4-13**] 03:19 PM 65 mL/hour
   Glycemic Control:  insulin sliding scale
   Lines: right subclavian CVL
   Multi Lumen - [**2153-4-11**] 02:21 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition: pending stabalization of HR and off dilt gtt.
   ------ Protected Section ------
   PE:
   Gen:lethargic
   Pulm: breash sounds clear ant.
   CV: Regular rate, irregular
   Abd: soft, non-tender
   Ext: pitting edema extending up legs and to groin
   Skin: healing LE superficial ulcers
   Neuro: left pupil fixed and dilated again this AM while getting neb;
   moving all extremities, oriented x3
   ------ Protected Section Addendum Entered By:[**Name (NI) 2640**] [**Last Name (NamePattern1) 5725**], MD
   on:[**2153-4-14**] 09:24 ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**First Name (STitle) 5725**]
s note and agree
   with his findings and plan of care.  Mr [**Known lastname 5400**] remains fragile. While
   his gas exchange and CXR have seemed to improve, his cardiac status has
   shown instability as last evening he developed Afib/flutter.  This AM
   he remains in Afib but with a controlled rate due to IV dilt drip.   We
   are concerned that his bladder spasms which are painful, may have
   contributed to his arrhythmia.  Urology is following closing and are
   awaiting results of a bladder scan we
ve ordered.  Meanwhile we will
   continue his abx ([**Last Name (un) 1540**], gangcyclovir, Vori), though results of BAL were
   inconclusive.
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2153-4-14**] 14:46 ------

2153-04-15 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Remained ICU for weaning off diltiazem drip and switch po diltiazem,
   which he tolerated well
   -Weaned methylprednisolone 10 [**Hospital1 **] --> 10 qday
   -Received kayexalate for K of 5.4, repeat K was 5.2
   -Ultrasound to evaluate bladder retention, report pending. Urine
   cytology sent.
   -CXR: improvement in pulmonary infiltrates
   -MRI/MRA (prelim)- very limited study due to motion, but the diffusion
   imaging is  satisfactory: No acute abnormality. No acute infarct or
   bleed
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2153-4-12**] 04:00 PM
   Vancomycin - [**2153-4-13**] 08:00 AM
   Meropenem - [**2153-4-14**] 08:24 PM
   Gancyclovir - [**2153-4-14**] 09:00 PM
   Voriconazole - [**2153-4-15**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2153-4-14**] 07:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-15**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 107 (77 - 107) bpm
   BP: 142/83(99) {91/58(68) - 142/94(101)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.5 kg (admission): 107.4 kg
    CVP: 17 (9 - 291)mmHg
   Total In:
                                                                  3,842 mL
                                                                    613 mL
   PO:
                                                                    940 mL
   TF:
   IVF:
                                                                    852 mL
                                                                    169 mL
   Blood products:
                                                                    489 mL
   Total out:
                                                                  3,190 mL
                                                                    520 mL
   Urine:
                                                                  3,190 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    652 mL
                                                                     94 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///24/
   Physical Examination
   Gen:Oriented x 3 with lethargy but improved from yesterday
   Pulm: breath sounds clear ant.
   CV: Regular rate, irregular
   Abd: soft, non-tender
   Ext: pitting edema extending up legs and to groin
   Skin: healing LE superficial ulcers
   Neuro: Pupils equal and reactive; moving all extremities, oriented x3
   Labs / Radiology
   45 K/uL
   9.4 g/dL
   144 mg/dL
   1.7 mg/dL
   24 mEq/L
   5.5 mEq/L
   113 mg/dL
   107 mEq/L
   141 mEq/L
   29.3 %
   7.4 K/uL
        [image002.jpg]
                             [**2153-4-12**]  09:21 AM
                             [**2153-4-12**]  02:49 PM
                             [**2153-4-13**]  03:56 AM
                             [**2153-4-13**]  05:00 AM
                             [**2153-4-13**]  07:15 AM
                             [**2153-4-13**]  02:13 PM
                             [**2153-4-14**]  03:07 AM
                             [**2153-4-14**]  05:29 AM
                             [**2153-4-14**]  05:56 PM
                             [**2153-4-15**]  04:15 AM
   WBC
   13.0
   10.8
   7.4
   Hct
   31.9
   32.0
   29.3
   Plt
   72
   40
   61
   36
   103
   45
   Cr
   1.9
   1.8
   1.7
   1.7
   1.7
   1.7
   Glucose
   157
   164
   208
   170
   143
   143
   144
   Other labs: PT / PTT / INR:13.4/32.9/1.1, ALT / AST:19/24, Alk Phos / T
   Bili:146/4.0, Differential-Neuts:85.6 %, Band:0.0 %, Lymph:8.7 %,
   Mono:5.5 %, Eos:0.1 %, Albumin:3.3 g/dL, LDH:483 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   66 yo man with multiple myeloma s/p allogenic SCT [**2153-2-9**] with multiple
   subsequent complications including ARF, GIB, VOD, febrile neutropenia,
   CMV viremia now transferred back to the MICU in respiratory distress.
   #) Respiratory Distress: Evolving pulmonary infiltrates/ground glass
   opacities on imaging in immunocompromised pt. Acutely decompensated and
   hypertensive after bronch, which may have precipitated pulm edema and
   resp distress in setting of imparied renal function with question of
   fungal infection. Was diuresed initially with good response and
   stabilization of O2 requirement at 3-4L NC.
   -Holding off on diuresis for now as patient had had tenuous BP in
   setting of narrow complex tachycardia.
   -Aggressive pulmonary toilet
   -Continue 21-day course meropenem (last day [**4-17**])
   -Continue antifungal coverage (vori -> mica [**1-15**] hypokalemia) pending
   BAL
   -Completed 16-day vanc and 5-day azithro on [**2153-4-13**]
   -F/u bronch fluid cultures and blood cultures
   - Wean off O2 as tolerated
   #) ARF: Peak Cr of 6.2 thought to be [**1-15**] cyclosporine induced ATN with
   possible component from VOD. Now s/p discontinuation of hemodialysis
   and tx of VOD. Likely with renal dysfunction still but Cr slowly
   improving Cr, decreased to 1.7 today. Concern regarding persistently
   elevated BUN, which may be [**1-15**] steroid effect, TPN, ?GI bleed (although
   Hct relatively stable) per Renal but not thought to be reflective of
   uremia given overall downward Cr trend. Chronic hemolysis possible
   given evidence of [**Last Name (un) 508**] in past but again, Cr improvement speaks against
   HUS-TTP.
   - Appreciate renal recs: No indication for hemodialysis at this point
   - Appreciate Heme-Onc input
   - Check 24-hour urine creatinine
   - Guaiac stools to r/o GIB
   - DAT, LFTs, hapto, smear, free hemoglobin to r/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 508**]
   - Renally dose meds (including cyclosporin) and closely monitor
   - Has already completed tx for VOD
   #) Hyperkalemia: Requiring kayexalate. Ddx: supratherapeutic
   cyclosporine in setting of voriconazole v. renal dysfunction v.
   potassium in TPN
   - D/c potassium in TPN
   - Change voriconazole to micafungin
   - W/u of renal failure as above
   - Monitor lytes
   #) Thrombocytopenia: Thought to be [**1-15**] multiple myeloma as has been
   chronic issue. ?TTP-HUS as above given past [**Last Name (un) 508**]
   - Check smear and labs listed above
   #) Bladder spasms: Chronic x 1 month, may have improved on oxybutynin.
   ?[**1-15**] hemorrhagic cystitis
 etiology still unclear. [**Name2 (NI) **] prelim read of
   abd US, may not actually have urinary retention; may actually have been
   scanning ascites as bladder appears decompressed.
   - Cont oxybutynin; avoid morphine and valium [**1-15**] sedative effects
   - F/u abd US final read
   - F/u urology recs regarding whether further work-up w/ cystoscopy
   indicated, whether able to d/c Foley
   #) Narrow complex tachycardia: Seems to have started after a severe
   bladder spasm.  [**Month (only) 11**] also be related to patient missing PL dose of
   metorpolol.  DDX for this patient is mainly between flutter or AVNRT.
   [**Month (only) 11**] be form of fib/flutter but patient mostly having discernable p
   waves.  Initial management with metoprolol and dilt gtt, now weaned to
   dilt po without recurrence
   -Cont beta blocker and dilt
   #) Hypertension: Beta blocker and dilt.
   #) Left eye dilation: Likely [**1-15**] ipratropium neb, appears to have
   resolved. MRI head limited but no acute changes noted.
   - F/u final MRI read and any neuro/ophtho recs
   #) GVHD/immunsuppression, had elevated bilirubin, thought to be due to
   GVHD. [**4-5**] RUQ u/s fairly unremarkable, no cholelithiasis or evidence
   of cholecystitis.
   -Methylprednisolone decreased [**4-11**]; continue at current dose
   -Cyclosporine decreased [**4-12**], monitor levels frequently in setting of
   rapidly changing renal function..  Dose currently at 25/25.
   #) Altered mental status: Lethargy may be [**1-15**] valium and morphine for
   bladder spasms. No acute change on MRI head.
   -Hold further valium and morphine
   #) CMV viremia: CMV titer relatively stable from [**4-3**] to [**4-9**]
   -Continue ganciclovir for now pending ID recs
   #) Multiple Myeloma: 1U platelets this morning
   -Transfuse PRBCs for Hct <28 and platelets <50K
   #) Hypocalcemia: Repeat PTH from [**4-8**] elevated at 532
   -Continue calcitriol
   #) Hypernatremia: resolved
   #) H/o GIB
   -Guaiac stools as above; monitor hct
   -Transfuse per parameters above
   -Continue IV BID PPI
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2153-4-14**] 06:53 PM 64 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-11**] 02:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: Pending further workup of renal issues but likely call-out
   back to BMT soon
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient, spoke with his wife and [**Name2 (NI) 5764**]
   coverage, Dr [**Name (NI) 1359**], and also spoke at length with the renal consulting
   team.  I was present for the key portion of the MICU services
   provided.  I have reviewed Dr [**Last Name (STitle) 5765**]
s note above and agree with her
   findings and plan of care.  Overall, from a resp standpoint, Mr [**Known lastname 5400**]
   has done well with resolving infiltrates and less dyspnea.  Cultures
   non revealing, but the plan is to continue [**Last Name (un) 1540**] and Vori.  While his
   presumed cyclosporin induced ATN has resolved with better U.O. and
   gradually lower creatinine, his BUN remains high, which renal feels is
   likely due to steroids and amino acids in TPN.  Elevated K has likely
   been due to less than normal renal function, K in TPN, and effect of
   cyclosporine in conjuction with vori.  Will consult with ID but will
   likely change vori to micafungin.  K has been taken out of TPN.
   Bladder spasms are considerably improved with ditropan, both pt and
   wife agree.  [**Name2 (NI) 5766**], his Afib has been rate controlled and just this AM
   he may be back in NSR.  45 min spent in the care of this critically ill
   and complex patient.
   [**First Name8 (NamePattern2) 548**] [**Last Name (NamePattern1) 549**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2153-4-15**] 16:47 ------

2153-04-16 09:13:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure-_Hypoxemia
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Continued elevation in BUN
   -Bladder Spasms decreased--Oxybutinin started
   -ABG--7.45/36/79
   -Recurrence of SVT--in the setting of elevations in BP and concern for
   possible pulmonary edema Rx with nebs and Lasix with TNG started for
   persistent elevations in BP and Dilt increase to 60mgQID with TNG able
   to be weaned off
   -T Max to >101--cultures sent
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Voriconazole - [**2153-4-15**] 12:00 AM
   Gancyclovir - [**2153-4-15**] 08:41 PM
   Micafungin - [**2153-4-16**] 01:34 AM
   Meropenem - [**2153-4-16**] 07:47 AM
   Vancomycin - [**2153-4-16**] 08:15 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2153-4-16**] 03:36 AM
   Morphine Sulfate - [**2153-4-16**] 04:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2153-4-16**] 08:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.8
C (101.8
   HR: 116 (92 - 135) bpm
   BP: 129/80(92) {125/76(88) - 167/107(118)} mmHg
   RR: 26 (17 - 38) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 100.5 kg (admission): 107.4 kg
   CVP: 11 (10 - 19)mmHg
   Bladder pressure: 9 (9 - 9) mmHg
   Total In:
                                                                  3,551 mL
                                                                  1,212 mL
   PO:
                                                                  1,275 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    740 mL
                                                                    412 mL
   Blood products:
   Total out:
                                                                  3,110 mL
                                                                  2,500 mL
   Urine:
                                                                  3,110 mL
                                                                  2,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    441 mL
                                                                 -1,288 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Vt (Spontaneous): 36 (36 - 36) mL
   SpO2: 98%
   ABG: 7.43/36/112/25/0
   PaO2 / FiO2: 160
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: No(t) PERRL, Right pupilllary dilation noted this
   am acutely
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, Alert--answering
   questions appropriatelly,
   Labs / Radiology
   10.5 g/dL
   36 K/uL
   98 mg/dL
   1.7 mg/dL
   25 mEq/L
   4.6 mEq/L
   110 mg/dL
   106 mEq/L
   141 mEq/L
   33.3 %
   11.3 K/uL
        [image002.jpg]
                             [**2153-4-13**]  07:15 AM
                             [**2153-4-13**]  02:13 PM
                             [**2153-4-14**]  03:07 AM
                             [**2153-4-14**]  05:29 AM
                             [**2153-4-14**]  05:56 PM
                             [**2153-4-15**]  04:15 AM
                             [**2153-4-15**]  03:40 PM
                             [**2153-4-15**]  05:09 PM
                             [**2153-4-16**]  04:30 AM
                             [**2153-4-16**]  06:18 AM
   WBC
   10.8
   7.4
   11.3
   Hct
   32.0
   29.3
   33.3
   Plt
   61
   36
   103
   45
   36
   Cr
   1.7
   1.7
   1.7
   1.7
   1.7
   1.7
   TCO2
   26
   25
   Glucose
   170
   143
   143
   144
   121
   98
   Other labs: PT / PTT / INR:12.8/26.4/1.1, ALT / AST:27/38, Alk Phos / T
   Bili:244/4.1, Differential-Neuts:92.3 %, Band:0.0 %, Lymph:3.9 %,
   Mono:3.2 %, Eos:0.4 %, Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL,
   LDH:534 IU/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: AG=10
   Assessment and Plan
   66 yo male s/p BMT with prolonged post transplant course and ICU
   admission with evaluation of progressive hypoxemic compromise and
   diffuse ground glass infiltrates.  Now he has had persistence of
   paroxysms of tachycardia, hypertension and respiratory distress.  This
   may be primary resp distress manifest as increased HR and
   BP--or--alternatively a primary cardiovascular changes manifest as resp
   distress in the setting of elevation in LVEDP as pulmonary edema is
   clearly seen on the CXR this morning.  In addition--he has had
   significant recurrence of his unilateral pupil dilation noted--this
   time on the right.  This is in the setting of oxybutinin Rx and
   Atrovent given at 3am today.
   1)Respiratory Failure-He has worsening pulmonary infiltrates, LOS
   positive 2 liters and has concerning elevation in CVP today at 14 with
   inspiratory fall but that is in the setting of significant respiratory
   distress.  In addition
patient with elevation of beta-glucan and
   concern in the immunocompromised state for possible fungal infection.
   -Antibiotics expanded to include Vanco/[**Last Name (un) 1540**]/GCV and antifungal coverage
   (vori) to continue to be discussed with ID and in the setting of fever
   certainly infection requires treatment.  Fever emerged in the setting
   of Vanco/Azitrho discontinuing
   -Will move to negative fluid balance today to move to improve
   oxygenation and improved resp distress.
   -BIPAP to aid in patient tolerance
   2)Acute Renal Failure-He does have persistent elevation of BUN in the
   setting of TPN and steroid Rx which are essential.
   -U/O continued to be brisk and Lasix responsive
   -K+ out of TPN
   -Appreciate renal input
   -CSA dosing being adjusted in concert with BMT team advice.
   -No evidence of significant [**Doctor First Name 5779**] on peripheral smear
   -No evidence of bladder dysfunction based upon detailed study with only
   mild ascites seen.
   -Would really prefer to D/C oxybutinin in the setting of altered neuro
   exam
   3)Altered Mental Status-This is manifest as significant pupillary
   changes.  His EOM are in tact this morning.  This is in the absence of
   change in exam otherwise.
   -Will pursue head CT if able to maintain safe resp status
   -Will continue to atrovent and maintain adequate delivery
   4)Atrial Fibrillation
   -Dilt increased
   -This am is sinus tachycardia and will treat pain, resp distress
   adequately this morning
   5)BMT/GVHD-
   -continue CSA and Steroids
   -Will adjust per BMT input and levels
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2153-4-15**] 11:00 PM 64 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-11**] 02:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2153-04-17 06:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p allogenic SCT, respiratory distress
   24 Hour Events:
   -right eye dilated- likely d/t ipratropium given at 3AM
   -I/O- goal 1L negative
   -consider repeat CT chest after d/w ID
   -ID recs-CT ab (BMT recs no IV contrast) to look for loculation or
   abscess, cont vanc for now.
   -renal recs-increase meropenem d/t improving renal fxn
   -BMT recs- CMV VL and BK virus ordered
   -Foley not pulled as putting out lots of urine, patient completed 24 hr
   urine collection.
   -Run of NSVT > 10 beats, lytes normal
   -Bladder ultrasound: no bladder residual with Foley catheter in place.
   Persistent moderate ascites
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Voriconazole - [**2153-4-15**] 12:00 AM
   Vancomycin - [**2153-4-16**] 08:04 PM
   Gancyclovir - [**2153-4-16**] 08:45 PM
   Meropenem - [**2153-4-16**] 10:00 PM
   Micafungin - [**2153-4-17**] 12:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-16**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-17**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.3
C (99.1
   HR: 112 (93 - 132) bpm
   BP: 127/97(103) {95/65(76) - 149/97(108)} mmHg
   RR: 30 (17 - 32) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 102.9 kg (admission): 107.4 kg
    CVP: 11 (7 - 16)mmHg
   Total In:
                                                                  4,178 mL
                                                                    675 mL
   PO:
                                                                    900 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,399 mL
                                                                    220 mL
   Blood products:
                                                                    343 mL
   Total out:
                                                                  5,910 mL
                                                                  1,025 mL
   Urine:
                                                                  5,910 mL
                                                                  1,025 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,732 mL
                                                                   -350 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.43/36/112/25/0
   PaO2 / FiO2: 224
   Physical Examination
   Gen: Oriented to person, year, and moth. Speaking with moderate
   distress.
   Pulm: faint expiratory wheezes anteriorly, no crackles at bases.
   CV: tachycardiac and irregular
   Abd: soft, non-tender
   Ext: pitting edema extending up legs and to groin
   Skin: healing LE superficial ulcers
   Neuro: moving all extremities
   Labs / Radiology
   24 K/uL
   9.6 g/dL
   95 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.1 mEq/L
   96 mg/dL
   105 mEq/L
   139 mEq/L
   30.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2153-4-14**]  05:29 AM
                             [**2153-4-14**]  05:56 PM
                             [**2153-4-15**]  04:15 AM
                             [**2153-4-15**]  03:40 PM
                             [**2153-4-15**]  05:09 PM
                             [**2153-4-16**]  04:30 AM
                             [**2153-4-16**]  06:18 AM
                             [**2153-4-16**]  11:26 AM
                             [**2153-4-16**]  03:06 PM
                             [**2153-4-17**]  04:30 AM
   WBC
   7.4
   11.3
   8.2
   Hct
   29.3
   33.3
   30.7
   Plt
   103
   45
   36
   44
   24
   Cr
   1.7
   1.7
   1.7
   1.7
   1.6
   1.5
   TCO2
   26
   25
   Glucose
   143
   144
   121
   98
   137
   95
   Other labs: PT / PTT / INR:12.8/26.4/1.1, ALT / AST:23/30, Alk Phos / T
   Bili:189/3.4, Differential-Neuts:92.3 %, Band:0.0 %, Lymph:3.9 %,
   Mono:3.2 %, Eos:0.4 %, Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL,
   LDH:534 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   A 66 yo man with multiple myeloma s/p allogenic SCT [**2153-2-9**] with
   multiple subsequent complications including ARF, GIB, VOD, febrile
   neutropenia, CMV viremia now transferred to the MICU in respiratory
   distress.
   #) Respiratory Distress: Evolving pulmonary patchy infiltrates/ground
   glass opacities on imaging in immunocompromised pt. Presumed fungal
   infection causing initial respiratory distress.  Was diuresed initially
   with good response and stabilization of O2 requirement at 3-4L NC.
   -aggressive pulmonary toilet
   -continue 21-day course meropenem (last day [**4-17**])
   -continue antifungal coverage (vori -> mica [**1-15**] hypokalemia) pending
   BAL
   -continue vancomycin (re-started on [**4-16**] for persistent fevers)
   -completed 16-day vanc and 5-day azithro on [**2153-4-13**]
   -f/u bronch fluid cultures and blood cultures
   -wean O2 as tolerated
   -continue Atovaquone for PCP [**Name Initial (PRE) 3261**]
   #) Fever: Unclear et. Patient spiked again overnight.  Had stopped Vanc
   and Azithro a few days ago.  Also concern for drug fever but must first
   rule out infectious source.  Consider abdominal infection versus drug
   fever in ddx.
   -blood and urine cultures pending
   -tylenol for fever
   -consider abdominal CT
   -consider paracentesis
   #) ARF: Peak Cr of 6.2 thought to be [**1-15**] cyclosporine induced ATN with
   possible component from VOD. Now s/p discontinuation of hemodialysis
   and tx of VOD. Likely with renal dysfunction still but Cr slowly
   improving, decreased to 1.5 today. Concern regarding persistently
   elevated BUN, which may be [**1-15**] steroid effect, TPN, ?GI bleed (although
   Hct relatively stable) per Renal but not thought to be reflective of
   uremia given overall downward Cr trend. Chronic hemolysis possible
   given evidence of [**Last Name (un) 508**] in past but again, Cr improvement speaks against
   HUS-TTP.
   -appreciate renal recs: no indication for hemodialysis at this point
   -appreciate heme-onc input.  Will continue to watch for TTP-HUS and
   closely follow peripheral smear.  T/c coombs testing.
   -follow-up 24-hour urine creatinine
   -DAT, LFTs, hapto, smear, free hemoglobin to r/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 508**]
   -renally dose meds (including cyclosporin) and closely monitor
   -has already completed tx for VOD
   #) Hyperkalemia: Required kayexalate 30mg once. Ddx: supratherapeutic
   cyclosporine in setting of voriconazole v. renal dysfunction v.
   potassium in TPN. Potassium has come down since switching voriconazole,
   decreasing cyclosporine and decreasing potassium in tube feeds.
   -changed voriconazole to micafungin
   -monitor lytes will replete K prn
   #) Thrombocytopenia: Thought to be [**1-15**] multiple myeloma and marrow
   suppressive therapy as has been chronic issue. ?TTP-HUS as above given
   past [**Last Name (un) 508**].
   -check smear and labs listed above
   #) Bladder spasms: Chronic x 1 month, may have improved on oxybutynin.
   ?[**1-15**] hemorrhagic cystitis
 etiology still unclear. [**Name2 (NI) **] prelim read of
   abd US, may not actually have urinary retention; may actually have been
   scanning ascites as bladder appears decompressed.
   -cont oxybutynin; avoid morphine and valium [**1-15**] sedative effects
   -f/u urology recs
   -remove foley catheter today
   #) Tachycardia: Initially narrow complex likely A-fib/flutter.
   Required rate control with dilt gtt.  Now on oral dilt and in sinus
   tach.  Reasons for sinus tach include pain, fever and respiratory
   distress.  Treatment for each per specific problem.  [**Name (NI) **] monitor for
   recurrence of fib/flutter.
   -cont diltiazem
   #) Hypertension: dilt., pain control.
   #) Anisocoria: Likely [**1-15**] ipratropium neb, appears to have resolved.
   MRI head limited but no acute changes noted.  Right eye dilated today,
   EOMI.
   -f/u final MRI read and any neuro/ophtho recs
   #) GVHD/immunsuppression: Had elevated bilirubin, thought to be due to
   GVHD. [**4-5**] RUQ u/s fairly unremarkable, no cholelithiasis or evidence
   of cholecystitis.
   -methylprednisolone decreased [**4-11**]; continue at current dose
   -cyclosporine decreased [**4-12**], monitor levels frequently in setting of
   rapidly changing renal function. Dose currently at 25/25.
   #) Altered mental status: Lethargy may be [**1-15**] valium and morphine for
   bladder spasms. No acute change on MRI head.
   -hold further valium and morphine
   #) CMV viremia: CMV titer relatively stable from [**4-3**] to [**4-9**]
   -continue ganciclovir for now pending ID recs
   #) Multiple Myeloma: 1Unit platelets this morning
   -transfuse PRBCs for Hct <28 and platelets <50K
   #) Hypocalcemia: Repeat PTH from [**4-8**] elevated at 532
   -continue calcitriol
   #) Hypernatremia: resolved
   #) H/o GIB
   -monitor hct
   -transfuse per parameters above
   -continue IV BID PPI
   ICU Care
   Nutrition: TPN w/ Lipids - [**2153-4-14**] 06:53 PM 64 mL/hour
   Glycemic Control:
   Lines: Multi Lumen - [**2153-4-11**] 02:21 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:
   Code status: FULL code
   Disposition:

2153-04-17 11:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2153-4-16**] 02:00 PM
 FEVER - 101.8
F - [**2153-4-16**] 07:00 AM
   -Negative Fluid Balance across past 24 hours
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Voriconazole - [**2153-4-15**] 12:00 AM
   Gancyclovir - [**2153-4-16**] 08:45 PM
   Meropenem - [**2153-4-16**] 10:00 PM
   Micafungin - [**2153-4-17**] 12:15 AM
   Vancomycin - [**2153-4-17**] 07:18 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2153-4-16**] 08:05 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2153-4-17**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 107 (93 - 122) bpm
   BP: 101/73(80) {101/64(76) - 144/102(110)} mmHg
   RR: 26 (17 - 35) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 102.9 kg (admission): 107.4 kg
   CVP: 11 (7 - 24)mmHg
   Total In:
                                                                  4,178 mL
                                                                  1,485 mL
   PO:
                                                                    900 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,399 mL
                                                                    420 mL
   Blood products:
                                                                    343 mL
                                                                     26 mL
   Total out:
                                                                  5,910 mL
                                                                  2,135 mL
   Urine:
                                                                  5,910 mL
                                                                  2,135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,732 mL
                                                                   -650 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: ///25/7.43/36/112--[**4-16**]-AM
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : , Wheezes : faint)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   70 K/uL
   95 mg/dL
   1.5 mg/dL
   25 mEq/L
   4.1 mEq/L
   96 mg/dL
   105 mEq/L
   139 mEq/L
   30.7 %
   8.2 K/uL
        [image002.jpg]
                             [**2153-4-14**]  05:56 PM
                             [**2153-4-15**]  04:15 AM
                             [**2153-4-15**]  03:40 PM
                             [**2153-4-15**]  05:09 PM
                             [**2153-4-16**]  04:30 AM
                             [**2153-4-16**]  06:18 AM
                             [**2153-4-16**]  11:26 AM
                             [**2153-4-16**]  03:06 PM
                             [**2153-4-17**]  04:30 AM
                             [**2153-4-17**]  09:23 AM
   WBC
   7.4
   11.3
   8.2
   Hct
   29.3
   33.3
   30.7
   Plt
   45
   36
   44
   24
   70
   Cr
   1.7
   1.7
   1.7
   1.7
   1.6
   1.5
   TCO2
   26
   25
   Glucose
   143
   144
   121
   98
   137
   95
   Other labs: PT / PTT / INR:12.8/26.4/1.1, ALT / AST:23/30, Alk Phos / T
   Bili:189/3.4, Differential-Neuts:92.3 %, Band:0.0 %, Lymph:3.9 %,
   Mono:3.2 %, Eos:0.4 %, Lactic Acid:1.4 mmol/L, Albumin:3.3 g/dL,
   LDH:534 IU/L, Ca++:8.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR-Patient has improved aeration at bases with recovery of
   visualiztion of HD
   Assessment and Plan
   66 yo male s/p BMT with prolonged hospital course and admitted to ICU
   with acute respiratory failure and now with continued support for
   hypoxemia and intermittent tachycardia/paroxysms of SVT.  Of concern is
   persistent fever but this is in the setting of mild decrease in WBC
   count
   1)Respiratory Failure-Improving pulmonary infiltrates in the setting of
   negative fluid balance
this has been presumed pnumonitis in the setting
   of post BMT state and no infectious organisms seen.
   -BAL negative
   -21 day course meropenem
   -Continue with anti-fungal and will discuss with ID and BMT
   -Atovaquone for PCP [**Name Initial (PRE) 3261**]
   2)Acute Renal Failure-
   -Improved Cr and BUN in the setting of spontaneous negative fluid
   balance suggestive of improving/resolving phase of ATN perhaps
   -Favor negative fluid balance as long as Cr continues to improve
   3)Fever-
   Extensive evaluations undertaken and no focal source seen
   Will consider intra-abdominal source with imaging today
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
 THROMBOCYTOPENIA, CHRONIC
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 TACHYCARDIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2153-4-16**] 11:00 AM 64 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2153-4-11**] 02:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :To floor
   Total time spent: 35 minutes